US07598264B2
6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
To THF (80 mL) cooled to −10° C. was added iPrMgCl (2M in THF, 60 mL). Dimethylamine (2M in THF) was then added at −10 to 0° C., the mixture then stirred for 1 hour at −5 to −10° C. The resulting suspension of ClMgNMe2 at −10° C. was allowed to warm to 0° C., and a solution of methyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (10.0 g) in dichloromethane (100 mL) was added over 20 minutes at 0° C. The mixture was then stirred until reaction was complete by HPLC. The reaction mixture was quenched with 1N HCl (335 mL). The organic layer was collected and the aqueous layer extracted with CH2Cl2 (35 mL). The organic phases were then combined and washed with brine (35 mL). Volatiles were evaporated to give the title product as an amorphous solid.

reactant | iPrMgCl | 2M, 60 mL | C(C)(C)[Mg]Cl
reactant | Dimethylamine | 2M | CNC | C2H7N
reactant | ClMgNMe2 | [Mg](Cl)N(C)C
reactant | methyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 10.0 g | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OC)C)=O)O)=O)C=CC1F | C18H16ClFN2O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C)=O)O)=O)C=CC1F | C19H19ClFN3O4
